US05968985
The mixture of methyl 5-[(E)-2-carboxyethenyl]-3-(2,5-dichlorothiophen-3-yl)benzoate (0.6 g), N,N-dimethylethylenediamine (0.22 ml), 1-hydroxy-benzotriazole (0.27 g) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (0.35 g) in N,N-dimethylformamide (10 ml) was stirred for 4 hours at ambient temperature. To the above mixture was added a mixture of guanidine hydrochloride (0.8 g) in N,N-dimethylformamide (10 ml) and 28 methanolic sodium methoxide (1.5 ml). The mixture was stirred for 16 hours at same temperature and the mixture was poured onto water. The mixture was extracted with the solution of ethyl acetate and tetrahydrofuran and the extracted layer was washed with brine, dried over magnesium sulfate and evaporated in vacuo. To the residue in methanol (10 ml) was added slight excess 4N-hydrogen chloride-ethyl acetate, and the isolated precipitate was collected by filtration. The precipitate was recrystallized from methanol to give [3-(2,5-dichlorothiophen-3-yl)-5-[(E)-2-[(2-dimethylaminoethyl)carbamoyl]ethenyl]benzoyl]guanidine dihydrochloride (0.44 g).

reactant | methyl 5-[(E)-2-carboxyethenyl]-3-(2,5-dichlorothiophen-3-yl)benzoate | 0.6 g | C(=O)(O)/C=C/C=1C=C(C=C(C(=O)OC)C1)C1=C(SC(=C1)Cl)Cl | C15H10Cl2O4S
reactant | N,N-dimethylethylenediamine | 0.22 ml | CN(CCN)C | C4H12N2
reactant | 1-hydroxy-benzotriazole | 0.27 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.35 g | Cl.CN(CCCN=C=NCC)C
reactant | guanidine hydrochloride | 0.8 g | Cl.NC(=N)N
reactant | sodium methoxide | 1.5 ml | C[O-].[Na+]
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | [3-(2,5-dichlorothiophen-3-yl)-5-[(E)-2-[(2-dimethylaminoethyl)carbamoyl]ethenyl]benzoyl]guanidine dihydrochloride | 0.44 g | Cl.Cl.ClC=1SC(=CC1C=1C=C(C(=O)NC(=N)N)C=C(C1)\C=C\C(NCCN(C)C)=O)Cl | InChI=1S/C19H21Cl2N5O2S.2ClH/c1-26(2)6-5-24-16(27)4-3-11-7-12(14-10-15(20)29-17(14)21)9-13(8-11)18(28)25-19(22)23;;/h3-4,7-10H,5-6H2,1-2H3,(H,24,27)(H4,22,23,25,28);2*1H/b4-3+;;
